US09382238B2
To a suspension of 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-yl)acetamide (1.5 g, 2.55 mmol) in DCM (20 mL) was added TFA (2 mL, 26.9 mmol) dropwise. The mixture was stirred at 25° C. for 2 h. The mixture was then concentrated. To the residue was added H2O (50 mL) dropwise and then neutralized with saturated Na2CO3 solution to adjust pH=7.5. The precipitate was filtered, washed with H2O (50 mL×3) and dried in vacuo. To the solid was added PE/EA (3:1, v/v, 30 mL) and stirred for 0.5 h. The solid was filtered, washed with PE/EA (3:1, v/v, 30 mL×2). The solid was redissolved in DCM/MeOH (20:1, v/v, 50 mL) and then concentrated in vacuo to a minimal amount of solvent (about 10 mL). The solid was filtered, washed with CH3CN (10 mL×2) and dried in vacuo. The residue was redissolved in DCM/MeOH (10:1, v/v, 50 mL) and concentrated in vacuo to give a white solid of 2-(4-(4-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)-N-(3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-yl)acetamide (440 mg, 0.938 mmol, 36.7% yield): 1H NMR (400 MHz, CD3OD): δ 7.39-7.36 (m, 1H), 7.36-7.30 (m, 1H), 7.25-7.18 (m, 2H), 6.37 (s, 1H), 5.99 (s, 1H), 4.11 (q, J=7.2 Hz, 2H), 3.82 (s, 2H), 1.53 (s, 6H), 1.37 (t, J=6.8 Hz, 3H). ES-LCMS m/z: 468 (M+H); CHN analytical report: average (%): N, 8.717; C, 55.32; H, 4.672.

reactant | 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-yl)acetamide | 2.55 mmol, 1.5 g | C(C)OC1=C(C=NC(=C1)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)NC1=CC(=NO1)C(C(F)(F)F)(C)C)F | C30H29F4N3O5
reactant | TFA | 26.9 mmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(4-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)-N-(3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-yl)acetamide | 0.938 mmol, 440 mg, 36.7% yield | C(C)OC=1C(=CNC(C1)=O)C1=CC(=C(C=C1)CC(=O)NC1=CC(=NO1)C(C(F)(F)F)(C)C)F | C22H21F4N3O4
